US04414226
(6) Synthesis of 8-hydroxy-1-methoxy-3-methyl-7,12-dihydro-5H-benzo[d]naphtho[2,3-b]pyran-5,7,12-trione
The entire amount of the 2-(3,5-dihydroxy-1,4-naphthoquinon-2-yl)-3-methoxy-5-methylbenzoic acid obtained above was dissolved in ethyl acetate (10 ml) and while the solution was stirred at room temperature, a mixture (1 ml:10 ml) of trifluoroacetic anhydride and acetic anhydride was added. The mixture was further stirred at the same temperature for an hour. This reaction mixture was washed with water and dilute aqueous sodium carbonate in that order, followed by drying over magnesium sulfate. The solvent was then distilled off and the residual brown oil was subjected to silica gel column chromatography to give vermillion-colored crystals (20 mg).

reactant | 2-(3,5-dihydroxy-1,4-naphthoquinon-2-yl)-3-methoxy-5-methylbenzoic acid | OC1=C(C(C2=CC=CC(=C2C1=O)O)=O)C1=C(C(=O)O)C=C(C=C1OC)C | C19H14O7
reactant | trifluoroacetic anhydride | 1 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | 8-hydroxy-1-methoxy-3-methyl-7,12-dihydro-5H-benzo[d]naphtho[2,3-b]pyran-5,7,12-trione | 20 mg | OC1=CC=CC=2C(C3=C(OC(C4=C3C(=CC(=C4)C)OC)=O)C(C12)=O)=O | C19H12O6
